US07960409B2
Step 2: 7-bromo-4-(bromoacetyl)-2H-chromen-2-one
To a solution of 7-bromo-2-oxo-2H-chromen-4-yl trifluoromethanesulfonate (2.71 g, 9.35 mmol) in THF-water (40 mL, 10/1 mixture), N-bromosuccinimide (1.83 g, 10.3 mmol) was added. The reaction was then stirred at room temperature. After 5 hours stirring, toluene was added and the crude mixture was evaporated under reduced pressure. The crude residue obtained was purified by column chromatography (EtOAc/hexanes, 25:75) to afford the title compound. 1H NMR (400 MHz, acetone-d6 7.80 (d, 1H), 7.72-7.62 (m, 1H), 7.60 (d, 1H), 7.13 (s, 1H), 4.92 (s, 2H).

reactant | 7-bromo-2-oxo-2H-chromen-4-yl trifluoromethanesulfonate | 9.35 mmol, 2.71 g | FC(S(=O)(=O)OC1=CC(OC2=CC(=CC=C12)Br)=O)(F)F | C10H4BrF3O5S
reactant | N-bromosuccinimide | 10.3 mmol, 1.83 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | THF water | 40 mL | C1CCOC1.O
product | 7-bromo-4-(bromoacetyl)-2H-chromen-2-one | BrC1=CC=C2C(=CC(OC2=C1)=O)C(CBr)=O | C11H6Br2O3
